US05225402
To a mixture of N-(1-benzyl-4-piperidinyl)aniline (6.4 g), diisopropyl ether (70 ml) and triethylamine (4.8 ml) is added at 70° C. a solution of α-methylcinnamoyl chloride (4.9 g) in diisopropyl ether (10 ml). After stirring at the same temperature for 30 minutes, water is added to the reaction solution and the mixture is extracted with ethyl acetate. The extract is concentrated by distilling off the solvent and to the resulting residue is added diethyl ether and the formed crystals are separated by filtration to give N-(α-methylcinnamoyl)-N-(1-benzyl-4-piperidinyl)aniline (8.9 g), m.p. 150°-152° C.

reactant | N-(1-benzyl-4-piperidinyl)aniline | 6.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=CC=C1 | C18H22N2
reactant | triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | α-methylcinnamoyl chloride | 4.9 g | CC(C(=O)Cl)=CC1=CC=CC=C1 | C10H9ClO
reactant | water | O | H2O
solvent | diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 70 ml | C(C)(C)OC(C)C | C6H14O
product | N-(α-methylcinnamoyl)-N-(1-benzyl-4-piperidinyl)aniline | 8.9 g | CC(C(=O)N(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=CC1=CC=CC=C1 | C28H30N2O
